US09388161B2
A mixture of (S)-2-(1-(cyclopropanecarbonyl)-2-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,4-tetrahydroquinolin-5-yloxy)benzonitrile (0.050 g, 0.11 mmol), 4-bromo-1-methyl-1H-1,2,3-triazole (0.025 g, 0.15 mmol), cesium carbonate (0.110 g, 0.34 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane adduct (0.10 g, 0.01 mmol) in 1,4-dioxane (10 mL) and water (3 mL) was stirred overnight at 80° C. The reaction mixture was cooled to room temperature and filtered through a short pad of Celite. The filtrate was concentrated and purified via preparative thin layer chromatography (eluting with 25% ethyl acetate-petroleum ether) to afford (S)-2-(1-(cyclopropanecarbonyl)-2-methyl-6-(1-methyl-1H-1,2,3-triazol-4-yl)-1,2,3,4-tetrahydroquinolin-5-yloxy)benzonitrile (0.006 g, 13%) as a white solid. MS (ESI, pos. ion) m/z 414 [M+H]+. 1H NMR (400 MHz, CD3OD) δ ppm 0.75-0.82 (m, 1H), 0.88-1.05 (m, 2H), 1.15-1.25 (m, 3H), 1.28-1.35 (m, 1H), 1.45-1.55 (m, 1H), 1.97-2.05 (m, 1H), 2.15-2.25 (m, 1H), 2.27-2.45 (m, 1H), 2.60-2.75 (m, 1H), 4.09 (s, 3H), 4.75-4.85 (m, 1H), 6.58 (d, J=8.40 Hz, 1H), 7.17 (t, J=8.00 Hz, 1H), 7.45-7.51 (m, 1H), 7.57 (d, J=8.40 Hz, 1H), 7.78 (d, J=1.20 Hz, 1H), 8.03-8.07 (m, 2H). MS (ESI, pos. ion) m/z 414 [M+H]+.

reactant | (S)-2-(1-(cyclopropanecarbonyl)-2-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,4-tetrahydroquinolin-5-yloxy)benzonitrile | 0.11 mmol, 0.050 g | C1(CC1)C(=O)N1[C@H](CCC2=C(C(=CC=C12)B1OC(C(O1)(C)C)(C)C)OC1=C(C#N)C=CC=C1)C | C27H31BN2O4
reactant | 4-bromo-1-methyl-1H-1,2,3-triazole | 0.15 mmol, 0.025 g | BrC=1N=NN(C1)C | C3H4BrN3
reactant | cesium carbonate | 0.34 mmol, 0.110 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 3 mL | O | H2O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane | 0.01 mmol, 0.10 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
product | (S)-2-(1-(cyclopropanecarbonyl)-2-methyl-6-(1-methyl-1H-1,2,3-triazol-4-yl)-1,2,3,4-tetrahydroquinolin-5-yloxy)benzonitrile | 0.006 g, 13% | C1(CC1)C(=O)N1[C@H](CCC2=C(C(=CC=C12)C=1N=NN(C1)C)OC1=C(C#N)C=CC=C1)C | C24H23N5O2
